US06569888B1
N-(3,4-Dichlorobenzyl)-4-(2,3-dihydroxypropoxy)indole-2-carboxylic Acid (Compound 21)
Ethyl N-(3,4-dichlorobenzyl)-4-(2,3-dihydroxypropoxy)indole-2-carboxylate (85 mg) was dissolved in THF (3 ml) and methanol (1 ml) and sodium hydroxide (2M, 3.0 ml) was added and the reaction stirred for 16 hours. The reaction was then concentrated in vacuo and the residue dissolved in water. The solution was acidified by dropwise addition of acetic acid, resulting in the precipitation of a white solid which was filtered, washed with water and dried in vacuo to give the desired end product (70 mg, 81%); NMR d (CD3SOCD3) 3.40-3.53 (m, 3H), 3.98-4.10 (m, 2H), 5.80 (s, 2H), 6.59 (d, 1H), 6.88 (d, 1H), 7.09 (d, 1H), 7.20 (t, 1H), 7.30 (d, 1H), 7.36 (s, 1H), 7.51 (d, 1H); M/z (−) 408 (M−H+).

reactant | Ethyl N-(3,4-dichlorobenzyl)-4-(2,3-dihydroxypropoxy)indole-2-carboxylate | 85 mg | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)OCC(CO)O)C(=O)OCC)C=CC1Cl | C21H21Cl2NO5
reactant | methanol | 1 ml | CO | CH4O
reactant | sodium hydroxide | 2M, 3.0 ml | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(3,4-Dichlorobenzyl)-4-(2,3-dihydroxypropoxy)indole-2-carboxylic Acid | 70 mg, 81% | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)OCC(CO)O)C(=O)O)C=CC1Cl | C19H17Cl2NO5
